US05304557
A. Ethyl 2-azidomethyl-4-oxo-3H-phthalazin-1-ylacetate
A mixture of ethyl 2-bromomethyl-4-oxo-3H-phthalazine-1-yl-acetate (2.0 g), sodium azide (0.4 g), acetone (20 ml), water (2 ml) and a catalytic amount of potassium iodide (10 mg) was stirred at room temperature for 4 hours. The mixture was concentrated under vacuum to remove the solvents and obtain the title product as a white solid (1.7 g).

reactant | ethyl 2-bromomethyl-4-oxo-3H-phthalazine-1-yl-acetate | 2.0 g | BrCN1C(C2=CC=CC=C2C(N1)=O)CC(=O)OCC | C13H15BrN2O3
reactant | sodium azide | 0.4 g | [N-]=[N+]=[N-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 10 mg | [I-].[K+]
solvent | water | 2 ml | O | H2O
product | Ethyl 2-azidomethyl-4-oxo-3H-phthalazin-1-ylacetate | 1.7 g | N(=[N+]=[N-])CN1C(C2=CC=CC=C2C(N1)=O)CC(=O)OCC | C13H15N5O3
